US09169246B2
Step 9.2. 8-bromo-7-(pyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. by treating 8-bromo-7-(pyrid-2-yl-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 8-bromo-7-(pyrid-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one with 4M HCl in dioxane, in the form of a white powder (hydrochloride, 0.4 H2O; yield 94%).

reactant | pyrid-2-yl-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1=C(C=CC=C1)C1=NN(C2=C1C(N(C=1C=CC=CC21)CC(F)(F)F)=O)C2OCCCC2 | C22H19F3N4O2
reactant | 8-bromo-7-(pyrid-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | BrC1=CC=2C3=C(C(N(C2C=C1C1=NC=CC=C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C22H20BrF3N4O2
reactant | HCl | 4M | Cl | ClH
reactant | H2O | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 8-bromo-7-(pyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 94% | Cl.BrC1=CC=2C3=C(C(N(C2C=C1C1=NC=CC=C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C17H10BrF3N4O.ClH/c18-12-5-10-14(6-9(12)13-3-1-2-4-22-13)25(8-17(19,20)21)16(26)11-7-23-24-15(10)11;/h1-7H,8H2,(H,23,24);1H
